US05192803
Ethyl N-phenylthio-2-[4-(3-chlorophenoxy)phenoxy]-1-methylethylcarbamate
A solution of 4 g of phenylsulfenyl chloride in 10 ml of toluene is added dropwise at 0°-5° C. in the course of 20 minutes to a solution of 9 g of ethyl 2-[4-(3-chlorophenoxy)phenoxy]-1-methylethylcarbamate in 30 ml of pyridine, with stirring, and the mixture is stirred for a further 15 hours at room temperature. Most of the pyridine and toluene is then distilled off in vacuo at a temperature of lower than 45° C., and the residue is poured into 300 ml of ice-water and extracted repeatedly with ether. The combined ether phases are first washed with cold, dilute hydrochloric acid and then with water, the mixture is dried over sodium sulfate, and the solvent is distilled off completely. The residue is purified further by chromatography on silica gel (eluent: n-hexane/diethyl ether, 19:1), by which process ethyl N-phenylthio-2-[4-(3-chlorophenoxy)phenoxy]-1-methylethylcarbamate is obtained as a colourless oil, nD20 : 1.5810.

reactant | phenylsulfenyl chloride | 4 g | C1(=CC=CC=C1)SCl | C6H5ClS
reactant | ethyl 2-[4-(3-chlorophenoxy)phenoxy]-1-methylethylcarbamate | 9 g | ClC=1C=C(OC2=CC=C(OCC(C)NC(OCC)=O)C=C2)C=CC1 | C18H20ClNO4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl N-phenylthio-2-[4-(3-chlorophenoxy)phenoxy]-1-methylethylcarbamate | C1(=CC=CC=C1)SN(C(OCC)=O)C(COC1=CC=C(C=C1)OC1=CC(=CC=C1)Cl)C | C24H24ClNO4S
